US06384080B1
A mixture of 5-nitro-2-(4-piperidinylamino)-N-(1,3-benzodioxol-5-ylmethyl)benzamide (80.0 mg), acetic acid (13.3 mg), 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (57.7 mg) and 1-hydroxybenzotriazole (40.7 mg) in anhydrous dimethylformamide (1 mL) was stirred for 3 hours at ambient temperature. The mixture was partitioned between water and ethyl acetate. The organic layer was separated and washed with an aqueous saturated sodium bicarbonate solution, water and brine. Then, the resultant was dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with diisopropyl ether to give 2-(1-acetyl-4-piperidinylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide as yellow powders (81.1 mg).

reactant | 5-nitro-2-(4-piperidinylamino)-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 80.0 mg | [N+](=O)([O-])C=1C=CC(=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C1)NC1CCNCC1 | C20H22N4O5
reactant | acetic acid | 13.3 mg | C(C)(=O)O | C2H4O2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 57.7 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 40.7 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-(1-acetyl-4-piperidinylamino)-5-nitro-N-(1,3-benzodioxol-5-ylmethyl)benzamide | 81.1 mg | C(C)(=O)N1CCC(CC1)NC1=C(C(=O)NCC2=CC3=C(OCO3)C=C2)C=C(C=C1)[N+](=O)[O-] | C22H24N4O6
